US04616011
(a) 8-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
A solution of 56.8 gm (0.3 mol) of 8-methoxy-1,3-dihydro-2H-3-benzazepin-2-one (melting point: 190°-191° C.) dissolved in 600 ml of glacial acetic acid is hydrogenated for 12 hours in the presence of 5 gm of 10% palladium/charcoal at 80° C. under 5 bar. The catalyst is removed by suction filtration, and the acetic acid is distilled off in vacuo. The residue is mixed with water and then neutralized with potassium carbonate, and the precipitate obtained is subjected to suction filtration, washed with water, and dried.

reactant | 8-methoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.3 mol, 56.8 gm | COC=1C=CC2=C(CC(NC=C2)=O)C1 | C11H11NO2
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | 5 gm | [Pd] | Pd
product | 8-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | COC=1C=CC2=C(CC(NCC2)=O)C1 | C11H13NO2
